US07943607B2
N-(1-Ethyl-1H-pyrazol-3-yl)-3-{[(1S)-2-hydroxy-1-methylethyl]oxy}-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]benzamide
A solution of N-(1-ethyl-1H-pyrazol-3-yl)-3-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]benzamide (125 mg, 0.25 mmol) in acetonitrile (5 mL) was treated with trimethylsilyl iodide (0.178 mL) drop wise and stirred at RT under argon for 2.5 hours. Aqueous sodium thiosulphate solution (30 mL) was added to quench the reaction and the mixture was extracted with ethyl acetate (3×30 mL). The combined organic extracts were dried (MgSO4), filtered and evaporated to give a yellow oil. Purification was carried out by column chromatography on silica, eluting with 50-100% ethyl acetate in isohexane, to give the desired compound as a pale yellow foam (50 mg).

reactant | N-(1-ethyl-1H-pyrazol-3-yl)-3-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]benzamide | 0.25 mmol, 125 mg | C(C)N1N=C(C=C1)NC(C1=CC(=CC(=C1)OC1=CC2=C(C(N(CCO2)C)=O)C=C1)O[C@H](COC)C)=O | C26H30N4O6
reactant | trimethylsilyl iodide | 0.178 mL | C[Si](C)(C)I | C3H9ISi
reactant | sodium thiosulphate | 30 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N-(1-Ethyl-1H-pyrazol-3-yl)-3-{[(1S)-2-hydroxy-1-methylethyl]oxy}-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]benzamide | 50 mg | C(C)N1N=C(C=C1)NC(C1=CC(=CC(=C1)OC1=CC2=C(C(N(CCO2)C)=O)C=C1)O[C@H](CO)C)=O | C25H28N4O6
